US07060852B2
2-Pentene from the raffinate II metathesis was dimerized continuously as in example 2 over an Ni heterogeneous catalyst. Fractional distillation of the product gave a decene fraction with a purity of 99.5%.

reactant | 2-Pentene | CC=CCC | C5H10
catalyst | Ni | [Ni] | Ni
product | decene | C=CCCCCCCCC | C10H20
